US06500250B1
Colorless 1-methylpyrrolidine, 195 g (2.3 mol), was added dropwise to 228 g (2 mol) of triethylaluminum at room temperature under nitrogen gas flow with stirring. After the addition of 1-methylpyrrolidine was completed, the resulting mixture was stirred for about 6 hours at room temperature to complete the reaction. 1-Methylpyrrolidine triethylaluminum was obtained after completion of the reaction, and was dried under vacuum at about 45° C. to give a colorless liquid. The dried colorless liquid compound was distilled under vacuum (10−2 torr) at 70° C., during which a colorless distillate was condensed inside a vessel cooled with dry ice. This first colorless distillate was purified according to the same procedure at 70° C. to give 354 g of the colorless liquid 1-methylpyrrolidine triethylaluminum having high purity.

reactant | 1-methylpyrrolidine | CN1CCCC1 | C5H11N
reactant | triethylaluminum | 2 mol, 228 g | C(C)[Al](CC)CC
product | 1-Methylpyrrolidine triethylaluminum | C(C)[Al](CC)CC.CN1CCCC1 | InChI=1S/C5H11N.3C2H5.Al/c1-6-4-2-3-5-6;3*1-2;/h2-5H2,1H3;3*1H2,2H3;
